US06750350B2
Step 1C 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2H-pyridazin-3-one
A solution of 2-(2-fluorophenyl)-3-hydroxy-4-methyl-5-(3-methoxyphenyl)-2,4-cyclopentadienone (310 mg, 1 mmol) and hydrazine (0.2 mL) in ethanol (5 mL) was heated at reflux for 30 minutes. The resulting solution was concentrated in vacuo and the residue was dissolved in dichloromethane, dried over sodium sulfate, filtered and concentrated in vacuo to give the desired compound as a colorless oil. 1H NMR (CDCl3): 2.14 (s, 3H), 3.27 (d, J=13.8 Hz, 1H), 3.43 (d, J=13.8 Hz, 1H), 6.70-7.25 (m, 8H); MS:325 (MH+).

reactant | 2-(2-fluorophenyl)-3-hydroxy-4-methyl-5-(3-methoxyphenyl)-2,4-cyclopentadienone | 1 mmol, 310 mg | FC1=C(C=CC=C1)C=1C(C(=C(C1O)C)C1=CC(=CC=C1)OC)=O | C19H15FO3
reactant | hydrazine | 0.2 mL | NN | H4N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(3-methoxyphenyl)-5-methyl-6-(2-fluorobenzyl)-2H-pyridazin-3-one | COC=1C=C(C=CC1)C=1C(NN=C(C1C)CC1=C(C=CC=C1)F)=O | C19H17FN2O2
